US08084623B2
A solution of tetrabutylammonium fluoride (1.0 M in THF, 1.2 mL) was slowly added at 0° C. to a solution of 3-benzyl-3-(1-triisopropylsilanyl-1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (670 mg, 1.19 mmol) in THF (15 mL). The resulting bright yellow mixture was stirred at 0° C. for 20 minutes, then was quenched by addition of water. The resulting mixture was extracted with EtOAc, and the combined organic layers were dried over MgSO4, filtered and evaporated under reduced pressure. The residue was purified by flash chromatography (30% to 50% of EtOAc in hexane) to give 447 mg (93% yield) of 3-benzyl-3-(1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester as a white foam.

reactant | tetrabutylammonium fluoride | 1.0 M, 1.2 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 3-benzyl-3-(1-triisopropylsilanyl-1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.19 mmol, 670 mg | C(C)(C)(C)OC(=O)N1CC(CC1)(C(=O)C=1C=C2C=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C)CC1=CC=CC=C1 | C34H48N2O3Si
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-benzyl-3-(1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 447 mg, 93% yield | C(C)(C)(C)OC(=O)N1CC(CC1)(C(=O)C=1C=C2C=CNC2=CC1)CC1=CC=CC=C1 | C25H28N2O3
